US07018997B2
Ethyl 7-methylimidazo[2,1-b]-benzthiazole-2-carboxylate was prepared according to the procedure as outlined in Example 1, (Step 1). Starting from 6-methyl-2-amino benzothiazole (3.2 g, 20 mmol) and ethyl bromopyruvate (4.0 g, 20.4 mmol), 3.0 g (57% Yield) of ethyl 7-methylimidazo[2,1-b]-benzthiazole-2-carboxylate was isolated as brown solid. (M+H) 261.

reactant | 6-methyl-2-amino benzothiazole | 20 mmol, 3.2 g | CC1=CC2=C(N=C(S2)N)C=C1 | C8H8N2S
reactant | ethyl bromopyruvate | 20.4 mmol, 4.0 g | BrCC(C(=O)OCC)=O | C5H7BrO3
product | ethyl 7-methylimidazo[2,1-b]-benzthiazole-2-carboxylate | 3.0 g, 57% Yield | CC1=CC2=C(N3C(S2)=NC(=C3)C(=O)OCC)C=C1 | C13H12N2O2S
